US06017919
LAH (570 mg, 0.015 mol, 1.5 eq) was dissolved in THF (30 ml), and to this solution was added dropwise a THF solution (50 ml) of 3-(4-benzyloxyphenyl)-propionitrile (2.37 g, 0.01 mol, 1.0 eq) under ice-cooling. After the completion of the dropwise addition, the mixture was stirred at room temperature for 2 hours. This reaction mixture was cooled with ice-cold water, and a saturated aqueous sodium sulfate solution (about 30-40 ml) was added. After filtration through Celite, the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (chloroform/metanol=10/1-5/1) to give 3-(4-benzyloxyphenyl)propylamine (1.2 g, 49.7%) as a pale-yellow amorphous compound.

reactant | LAH | 0.015 mol, 570 mg, 1.5 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-(4-benzyloxyphenyl)-propionitrile | 0.01 mol, 2.37 g, 1.0 eq | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC#N | C16H15NO
reactant | sodium sulfate | about 30-40 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-(4-benzyloxyphenyl)propylamine | 1.2 g, 49.7% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCN | C16H19NO
